US08877794B2
46.1 Ethyl 2-cyano-2-(3-methoxyphenyl)acetate
A mixture of 3-iodoanisole (11.2 ml, 85 mmol), ethyl cyanoacetate (27.3 ml, 256 mmol), potassium carbonate (47.2 g, 342 mmol), copper(I) iodide (1.63 g, 8.55 mmol) and L-proline (1.97 g, 17.1 mmol) in dimethylsulfoxide (300 ml) was heated to 90° C. under argon for 11 h and then at room temperature over night. The solution was poured into 1N hydrochloric acid, extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium bicarbonate, filtered and the solvent evaporated to obtain a brown oil. Purification on 12 g SiO2 using 20% ethyl acetate in cyclohexane afforded a clear oil m=16.8 g (44.8%)

reactant | 3-iodoanisole | 85 mmol, 11.2 ml | IC=1C=C(C=CC1)OC | C7H7IO
reactant | ethyl cyanoacetate | 256 mmol, 27.3 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | potassium carbonate | 342 mmol, 47.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | L-proline | 17.1 mmol, 1.97 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylsulfoxide | 300 ml | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 8.55 mmol, 1.63 g | [Cu]I
product | Ethyl 2-cyano-2-(3-methoxyphenyl)acetate | C(#N)C(C(=O)OCC)C1=CC(=CC=C1)OC | C12H13NO3
